US07572820B2
4-Chloro-1-{[5-(3,5-difluorophenyl)-1,2,4-oxadiazol-3-yl]methyl}-2-propyl-1H-indole-5-carbonitrile
Synthesized as described in Example 4 from 4-chloro-2-propyl-1H-indole-5-carbonitrile and 3-(chloromethyl)-5-(3,5-difluorophenyl)-1,2,4-oxadiazole: 1H NMR (400 MHz, DMSO-d6) δ 7.95 (s, 1H), 7.80-7.61 (m, 4H), 7.57 (d, J=8.5 Hz, 1H), 5.83 (s, 2H), 3.05-2.75 (m, 2H), 1.70-1.41 (m, 2H), 0.92 (t, J=7.3 Hz, 3H); MS (ES) m/z 413 (M+1).

reactant | 4-chloro-2-propyl-1H-indole-5-carbonitrile | ClC1=C2C=C(NC2=CC=C1C#N)CCC | C12H11ClN2
reactant | 3-(chloromethyl)-5-(3,5-difluorophenyl)-1,2,4-oxadiazole | ClCC1=NOC(=N1)C1=CC(=CC(=C1)F)F | C9H5ClF2N2O
product | 4-Chloro-1-{[5-(3,5-difluorophenyl)-1,2,4-oxadiazol-3-yl]methyl}-2-propyl-1H-indole-5-carbonitrile | ClC1=C2C=C(N(C2=CC=C1C#N)CC1=NOC(=N1)C1=CC(=CC(=C1)F)F)CCC | C21H15ClF2N4O
